US07435837B2
Treatment of (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methanol (6.21 g, 0.025 mol) with p-toluenesulfonyl chloride (5.26 g, 0.028 mol) in pyridine (120 mL) generally according to the procedure described for Intermediate 10 afforded 8.85 g (88%) of (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. Rf=0.60 (silica, ethyl acetate:hexanes 1:1); mp 100-103° C.; Anal. calcd. for C16H14BrFO4S: C, 47.89; H, 3.52. Found: C, 47.89; H, 3.68.

reactant | (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methanol | 0.025 mol, 6.21 g | BrC1=CC=C(C=2CC(OC21)CO)F | C9H8BrFO2
reactant | p-toluenesulfonyl chloride | 0.028 mol, 5.26 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 8.85 g, 88% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2Br)F | C16H14BrFO4S
